US05597823
Ethyl 3-(N-benzylamino)thieno[2,3-b]pyrazine-2-carboxylate
Ethyl 3-aminothieno[2,3-b]pyrazine-2-carboxylate (0.450 g, 2.02 mmol) was treated with neat NaH (0.058 g, 2.42 mmol) and benzyl bromide (0.380 g, 2.22 mmol) as described in Example 94A. Purification by column chromatography on silica gel eluting with a solvent gradient from 10:1 to 3:1 hexanes:ethyl acetate gave the title compound (0.39 g, 62%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ1.39 (t, 3H), 4.37 (q, 2H), 5.38 (d, 2H), 7.19-7.42 (m, 5H), 7.88 (br t, 1H), 8.55 (m, 2H). MS (DCI/NH3) m/e 3 14 (M+H)+.

reactant | Ethyl 3-aminothieno[2,3-b]pyrazine-2-carboxylate | 2.02 mmol, 0.450 g | NC1=C(N=C2C(=N1)SC=C2)C(=O)OCC | C9H9N3O2S
reactant | NaH | 2.42 mmol, 0.058 g | [H-].[Na+]
reactant | benzyl bromide | 2.22 mmol, 0.380 g | C(C1=CC=CC=C1)Br | C7H7Br
product | Ethyl 3-(N-benzylamino)thieno[2,3-b]pyrazine-2-carboxylate | 0.39 g, 62% | C(C1=CC=CC=C1)NC1=C(N=C2C(=N1)SC=C2)C(=O)OCC | C16H15N3O2S
